* D:\Desktop\DCMOS_ASSIGNMENT2\Q2.asc
V1 Vx 0 1
V2 Vy 0 PULSE(0 1 0 1f 1f 8n 16n 4)
M1 N001 Vx 0 0 NMOS l=45nm w=300nm
M2 N001 Vx Vdd Vdd PMOS l=45nm w=600nm
M3 N002 Vy 0 0 NMOS l=45nm w=300nm
M4 N002 Vy Vdd Vdd PMOS l=45nm w=600nm
M5 N008 Vz 0 0 NMOS l=45nm w=300nm
M6 N008 Vz Vdd Vdd PMOS l=45nm w=600nm
V3 Vz 0 0
M7 N003 N001 Vdd Vdd PMOS l=45nm w=550nm
M8 N003 N002 Vdd Vdd PMOS l=45nm w=550nm
M9 N003 N001 N004 N004 NMOS l=45nm w=550nm
M10 N004 N002 0 0 NMOS l=45nm w=550nm
M11 N007 N002 0 0 NMOS l=45nm w=620nm
M12 N007 N002 Vdd Vdd PMOS l=45nm w=1240nm
M13 N005 N007 Vdd Vdd PMOS l=45nm w=1905nm
M14 N005 N008 Vdd Vdd PMOS l=45nm w=1905nm
M15 N005 N007 N009 N009 NMOS l=45nm w=1905nm
M16 N009 N008 0 0 NMOS l=45nm w=1905nm
M17 Vout N003 Vdd Vdd PMOS l=45nm w=2930nm
M18 Vout N005 Vdd Vdd PMOS l=45nm w=2930nm
M19 Vout N003 N006 N006 NMOS l=45nm w=2930nm
M20 N006 N005 0 0 NMOS l=45nm w=2930nm
V4 Vdd 0 1
C1 Vout 0 13f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\bajor\AppData\Local\LTspice\lib\cmp\standard.mos
.inc "D:\Desktop\DCMOS_ASSIGNMENT2\ptm_45nm_hp.l"
.tran 40ns
.backanno
.end
